US04222940
(c) dl-3-methyl-2-[(E)-6-(m-methoxyphenyl)-2-benzyloxy-3-hexenyl]-2-cyclopentenone ethylene dithioketal
A solution of about 9.20 g (24.6 mmol) dl-3-methyl-2-[6-(m-methoxy-phenyl)-2-hydroxy-3-hexynyl]-2-cyclopentenone ethylene dithioketal in 53 ml tetrahydrofuran was added dropwise over a period of about 20 minutes to a suspension of 1.86 g (49 mmol) lithium aluminium hydride in about 80 ml tetrahydrofuran under a nitrogen atmosphere. The mixture was stirred in a water-bath at about 60° C. for about 4 hours. After cooling to about 0° C., the following consecutive dropwise additions were cautiously made to the suspension: 1.86 ml water, 1.86 ml 15% sodium hydroxide solution and 5.50 ml water. Sodium sulphate (5 g) was added and the whole was filtered. The filtrate was evaporated to dryness under reduced pressure and the residue (7.35 g) was dissolved in about 100 ml tetrahydrofuran. The following consecutive additions were made to this solution under nitrogen: 20.0 g (370 mmol) powdered potassium hydroxide and 20.0 ml (214 mmol) benzyl chloride. The whole was then stirred for about 16 hours at room temperature. After filtering, the filtrate was evaporated to dryness under reduced pressure. The residue was filtered through about 100 g silica gel with hexane/acetone 9:1 by weight (500 ml) giving 8.70 g product.

reactant | 3-methyl-2-[6-(m-methoxy-phenyl)-2-hydroxy-3-hexynyl]-2-cyclopentenone ethylene dithioketal | C1CSC2(C(=C(CC2)C)CC(C#CCCC2=CC(=CC=C2)OC)O)S1 | C21H26O2S2
reactant | lithium aluminium hydride | 49 mmol, 1.86 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1.86 ml | [OH-].[Na+]
reactant | Sodium sulphate | 5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | benzyl chloride | 214 mmol, 20.0 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | tetrahydrofuran | 53 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | about 80 ml | O1CCCC1 | C4H8O
solvent | water | 5.50 ml | O | H2O
solvent | water | 1.86 ml | O | H2O
product | 3-methyl-2-[(E)-6-(m-methoxyphenyl)-2-benzyloxy-3-hexenyl]-2-cyclopentenone ethylene dithioketal | 8.70 g | C1CSC2(C(=C(CC2)C)CC(\C=C\CCC2=CC(=CC=C2)OC)OCC2=CC=CC=C2)S1 | C28H34O2S2
